US06562814B2
A mixture of 2,5-dimethylphenyl-isothiocyanate (16.3 g), N-methyl aminooxy acetic acid hydrochloride (15.55 g), triethylamine (30 g) and chloroform (250 mL) was heated at reflux for one hour, stirred at ambient temperature for one hour, then evaporated to dryness. The residue was dissolved in ethyl acetate (500 mL) and washed with 2N HCl (2×200 mL) then with water (200 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness affording (25 g) of [[[[(2,5-dimethylphenyl)amino]thioxomethyl]methylamino]oxy]acetic acid as an oil. 1H-NMR (DMSO-d6; 300 Mhz) δ13.25 (br s, 1H), 10.08 (s, 1H), 7.15-6.94 (m, 3H), 4.62 (s, 2H), 3.52 (s, 3H), 2.24 ppm (s, 3H and 2.10 ppm (s, 3H). The acid (24.1 g) was dissolved in benzene (250 mL). Phosphorus pentachloride (18.7 g) was added in portions. The mixture was heated at reflux for one half hour then evaporated to dryness. The residue was dissolved in ethyl acetate (600 mL) and washed with sodium bicarbonate saturated solution (2×300 mL) then with water (300 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residual oily substance crystallized upon standing. The solid mass was stirred in methanol (100 mL). The solid was collected by filtration and air dried to give the title compound (11.2 g), m.p. 104-106° C. Mass spectrum (El, M.+) m/z 250. 1H-NMR (CDCl3; 400 MHz) δ7.21-7.17 (m, 2H), 6.92 (s, 1H), 4.84 (ABq, 2H), 3.75 (s, 3H), 2.35 (s, 3H), and 2.12 ppm (s, 3H).

reactant | 2,5-dimethylphenyl-isothiocyanate | 16.3 g | CC1=C(C=C(C=C1)C)N=C=S | C9H9NS
reactant | N-methyl aminooxy acetic acid hydrochloride | 15.55 g | Cl.CNOCC(=O)O
reactant | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | [[[[(2,5-dimethylphenyl)amino]thioxomethyl]methylamino]oxy]acetic acid | 25 g | CC1=C(C=C(C=C1)C)NC(=S)N(OCC(=O)O)C | C12H16N2O3S
